US04675324
A solution of 6-chloro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (2 g), N,N-dimethylformamide dimethyl acetal (7.009 g), and triethylamine (0.87 g) in benzene (50 ml) was refluxed with stirring for 1 hour and then about three-fourths of the solvent was distilled slowly at atmospheric pressure over a period of approximately 1 hour. To the residue was added benzene (100 ml) and the solvent was distilled again. The resulting solid was collected by filtration, washed with diethyl ether, and dried to give 6-chloro-3-dimethylaminomethylene-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (2.02 g).

reactant | 6-chloro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 2 g | ClC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H12ClNO2
reactant | N,N-dimethylformamide dimethyl acetal | 7.009 g | COC(N(C)C)OC | C5H13NO2
reactant | triethylamine | 0.87 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-chloro-3-dimethylaminomethylene-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 2.02 g | ClC=1C=C2C(C(CN(C2=CC1)C(CC)=O)=CN(C)C)=O | C15H17ClN2O2
